US07338959B2
N2-isopropyl-N5,1-dimethyl-N5-[2-({4-[(methylsulfonyl)methyl]phenyl}amino)pyrimidin-4-yl]-1H-benzimidazole-2,5-diamine hydrochloride
To a solution of N5-(2-chloropyrimidin-4-yl)-N2-isopropyl-N5,1-dimethyl-1H-benzimidazole-2,5-diamine (83 mg, 0.25 mmol) and 4-[(methylsulfonyl)methyl]aniline (46 mg, 0.25 mmol) in ethanol (2.5 ml) was added a solution of HCl (0.25 ml, 1M in diethyl ether), and the reaction was heated to 70° C. After 5 h, the precipitate was filtered off and washed with ethanol and dried to give the title compound as a white solid (104 mg, 87%). 1H NMR (300 MHz, d6-DMSO) δ 10.1 (s, 1H), 8.74 (m, 1H), 7.93 (d, J=6.6 Hz, 1H), 7.60-7.65 (m, 3H), 7.41 (s, 1H), 7.24-7.29 (m, 3H), 5.90 (s, 1H), 4.39 (s, 2H), 4.09 (m, 1H), 3.69 (s, 3H), 3.49 (s, 3H), 2.87 (s, 3H), 1.33 (d, J=6.6 Hz, 6H) ppm. MS (ESI) m/z=480 [M+H]+.

reactant | N5-(2-chloropyrimidin-4-yl)-N2-isopropyl-N5,1-dimethyl-1H-benzimidazole-2,5-diamine | 0.25 mmol, 83 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C)C)C=C1)C | C16H19ClN6
reactant | 4-[(methylsulfonyl)methyl]aniline | 0.25 mmol, 46 mg | CS(=O)(=O)CC1=CC=C(N)C=C1 | C8H11NO2S
reactant | HCl | 1M, 0.25 ml | Cl | ClH
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | N2-isopropyl-N5,1-dimethyl-N5-[2-({4-[(methylsulfonyl)methyl]phenyl}amino)pyrimidin-4-yl]-1H-benzimidazole-2,5-diamine hydrochloride | 104 mg, 87% | Cl.C(C)(C)NC1=NC2=C(N1C)C=CC(=C2)N(C2=NC(=NC=C2)NC2=CC=C(C=C2)CS(=O)(=O)C)C | InChI=1S/C24H29N7O2S.ClH/c1-16(2)26-24-28-20-14-19(10-11-21(20)31(24)4)30(3)22-12-13-25-23(29-22)27-18-8-6-17(7-9-18)15-34(5,32)33;/h6-14,16H,15H2,1-5H3,(H,26,28)(H,25,27,29);1H
